US07115740B2
The mixture of 7-chloro-1-cyclopropylmethyl-3-(4-methoxy-phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidine-2-one (129 mg, 0.37 mmol) in aniline (1.0 mL) (Aldrich) was heated to 120° C. for 5.5 hours. After cooling, the reaction mixture was washed with hexanes (4×100 mL) and the crude product was purified by preparative thin layer chromatography to give 1-cyclopropylmethyl-3-(4-methoxy-phenyl)-7-phenylamino-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidine-2-one as an off-white solid. (Yield 20.6 mg, 13.7%).

reactant | 7-chloro-1-cyclopropylmethyl-3-(4-methoxy-phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidine-2-one | 0.37 mmol, 129 mg | ClC1=NC=C2C(=N1)N(C(N(C2)C2=CC=C(C=C2)OC)=O)CC2CC2 | C17H17ClN4O2
solvent | aniline | 1.0 mL | NC1=CC=CC=C1 | C6H7N
product | 1-cyclopropylmethyl-3-(4-methoxy-phenyl)-7-phenylamino-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidine-2-one | C1(CC1)CN1C(N(CC=2C1=NC(=NC2)NC2=CC=CC=C2)C2=CC=C(C=C2)OC)=O | C23H23N5O2
